US07691876B2
1H-Pyrrolo[2,3-c]pyridine-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-difluoromethoxy-phenyl)-ethyl]-amide (B2.1)
(4-tert-Butyl-benzyl)-[2-(3-difluoromethoxy-phenyl)-ethyl]-amine (90 mg, 0.27 mmol), N-methylmorpholine (74 mg, 0.73 mmol), and HBTU (139 mg, 0.37 mmol) were added at RT to a solution of 1H-pyrrolo[2,3-c]pyridine-7-carboxylic acid (66 mg) in DMF (3 mL), then after 64 h the reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography of the residue (SiO2, heptane-dichloromethane gradient) afforded the title compound (108 mg, 86% over 2 steps). Light yellow oil, MS (ISP) 478.4 (M+H)+.

reactant | (4-tert-Butyl-benzyl)-[2-(3-difluoromethoxy-phenyl)-ethyl]-amine | 0.27 mmol, 90 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=CC=C2)OC(F)F)C=C1 | C20H25F2NO
reactant | N-methylmorpholine | 0.73 mmol, 74 mg | CN1CCOCC1 | C5H11NO
reactant | HBTU | 0.37 mmol, 139 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1H-pyrrolo[2,3-c]pyridine-7-carboxylic acid | 66 mg | N1C=CC=2C1=C(N=CC2)C(=O)O | C8H6N2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1H-Pyrrolo[2,3-c]pyridine-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-difluoromethoxy-phenyl)-ethyl]-amide | 108 mg, 86% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2N=CC=C3C2NC=C3)CCC3=CC(=CC=C3)OC(F)F)C=C1 | C28H29F2N3O2
